US04008313
15.0 g. of 6α-fluoro-9α-bromo-11β-hydroxy-21-hexanoyloxy-16α-methyl-1,4-pregnadiene-3,20-dione is dissolved in 25 ml. of collidine and agitated for 15 minutes at 170° C. After cooling, the collidine hydrobromide is filtered off and the filtrate combined with ether until no precipitate is formed any longer. The precipitate is filtered off, and the filtrate is extracted with hydrochloric acid and sodium bicarbonate; then, it is washed neutral, dried, and concentrated. The viscous crude product amounting to 17.7 g. is purified by chromatography over a silica gel column, and recrystallization from acetone-hexane yields 6α-fluoro-11β-hydroxy-21-hexanoyloxy-16α-methyl-1,4,8-pregnatriene-3,20-dione, m.p. 155° C.

reactant | 6α-fluoro-9α-bromo-11β-hydroxy-21-hexanoyloxy-16α-methyl-1,4-pregnadiene-3,20-dione | F[C@H]1C[C@H]2[C@@H]3C[C@H]([C@H](C(COC(CCCCC)=O)=O)[C@]3(C[C@@H]([C@@]2([C@]2(C=CC(C=C12)=O)C)Br)O)C)C | C28H38BrFO5
reactant | collidine | N1=C(C=C(C=C1C)C)C | C8H11N
product | 6α-fluoro-11β-hydroxy-21-hexanoyloxy-16α-methyl-1,4,8-pregnatriene-3,20-dione | F[C@H]1CC=2[C@@H]3C[C@H]([C@H](C(COC(CCCCC)=O)=O)[C@]3(C[C@@H](C2[C@]2(C=CC(C=C12)=O)C)O)C)C | C28H37FO5
